US08981100B2
Synthesis of 3-(5-bromopentyl)furan-2,4(3H,5H)-dione
To a solution of furan-2,4(3H,5H)-dione (500 mg, 5.0 mmol) in THE (10 ml) is added K2CO3 (2.5 g, 18.1 mmol) and the mixture is stirred at room temperature for 3 hours under nitrogen atmosphere. To the reaction mixture is added a solution of 1,5-dibromopentane (5.0 g, 21.7 mmol) in THE (10 ml), slowly over 30 minutes. It is then stirred vigorously at room temperature for one day. The reaction mixture is then partitioned between CH2Cl2 (100 ml) and saturated NH4Cl (50 ml). The organic phase is extracted with CH2Cl2 (3×50 ml), and the combined organic phase is washed with brine (50 ml), dried over MgSO4 and concentrated. The resulting crude product is purified by column chromatography over silica gel eluting with 20% ethyl acetate to give a pure product.

reactant | furan-2,4(3H,5H)-dione | 5.0 mmol, 500 mg | O1C(CC(C1)=O)=O | C4H4O3
reactant | K2CO3 | 18.1 mmol, 2.5 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1,5-dibromopentane | 21.7 mmol, 5.0 g | BrCCCCCBr | C5H10Br2
product | 3-(5-bromopentyl)furan-2,4(3H,5H)-dione | BrCCCCCC1C(OCC1=O)=O | C9H13BrO3
